US09233951B2
Stage 1: 3-(Pyridin-3-yl)-1,2-oxazole-5-carboxylic acid
300 mg (1.38 mmol) of ethyl 3-(pyridin-3-yl)-1,2-oxazole-5-carboxylate (for preparation see Chem. Heterocyclic Comp. 2000, 36, 1226-1231) were dissolved in 20 ml of dioxane. While cooling with ice, 7 ml of water and 0.35 ml of 45% aqueous sodium hydroxide solution were added to the solution. The mixture was stirred at room temperature for two hours, then the dioxane was removed on a rotary evaporator under reduced pressure. Ice-water was added to the residue, and it was acidified with concentrated hydrochloric acid. The solution was stirred at room temperature overnight, and the precipitated solid was filtered off with suction and dried.

reactant | ethyl 3-(pyridin-3-yl)-1,2-oxazole-5-carboxylate | 1.38 mmol, 300 mg | N1=CC(=CC=C1)C1=NOC(=C1)C(=O)OCC | C11H10N2O3
reactant | water | 7 ml | O | H2O
reactant | sodium hydroxide | 0.35 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(Pyridin-3-yl)-1,2-oxazole-5-carboxylic acid | N1=CC(=CC=C1)C1=NOC(=C1)C(=O)O | C9H6N2O3
